US06355617B1
Excess solid sodium bicarbonate was added to (S)-2-(6-oxo-1,7-diazaspiro[4.4]non-7-yl)propionic acid (0.42 g) in water (2 ml) and then 9-fluorenylmethyl succinimidyl carbonate (0.7 g) in acetone (3 ml) was added. The mixture was stirred for 18 hours. The mixture was then added to water (10 ml), extracted with ether (10 ml) and the aqueous layer separated. (The ether extracts were discarded). The pH of the aqueous layer was adjusted to ˜3 with concentrated hydrochloric acid and then it was extracted with dichloromethane (2×10 ml). The combined extracts were separated, dried (MgSO4) and evaporated to give (S)-2-[1-(9-fluorenylmethyloxycarbonyl)-6-oxo-1,7-diazaspiro[4.4]non-7-yl]propionic acid (0.62 g) as a white foam; NMR (d6-DMSO (373K)): some doubling of peaks due to the mixture of diastereoisomers, 1.3 (2d, 3H), 1.6-2.0 (m, 6H), 3.05 (m, 1H), 3.2-3.45 (m, 3H) 4.2-4.4 (m, 1H), 4.5 (m, 1H), 6.2 (s, 2H), 7.35 (m, 4H), 7.8 (m, 4H).

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | (S)-2-(6-oxo-1,7-diazaspiro[4.4]non-7-yl)propionic acid | 0.42 g | O=C1C2(CCCN2)CCN1[C@H](C(=O)O)C | C10H16N2O3
reactant | 9-fluorenylmethyl succinimidyl carbonate | 0.7 g | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
solvent | water | 2 ml | O | H2O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | (S)-2-[1-(9-fluorenylmethyloxycarbonyl)-6-oxo-1,7-diazaspiro[4.4]non-7-yl]propionic acid | 0.62 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCCC12C(N(CC2)[C@H](C(=O)O)C)=O | C25H26N2O5
